US09216980B2
Preparation of 4-(4-Bromobenzyl)-thiomorpholine 1,1-dioxide
A mixture of 4-bromobenzyl bromide (1.0 g, 4.0 mmol), triethylamine (0.84 mL, 6.0 mmol) and thiomorpholine 1,1-dioxide (1.09 g, 8.0 mmol) in THF (10 mL) was stirred at ambient temperature for 16 h. The solvent was evaporated and the resultant residue diluted with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate (2×50 mL). The combined organic layer was dried over sodium sulfate, filtered and evaporated to afford the title compound (0.90 g, 74%). 1H NMR (CDCl3, 300 MHz): 7.50-7.44 (m, 2H), 7.22-7.16 (m, 2H), 3.60 (s, 2H), 3.09-3.02 (m, 4H), 3.00-2.94 (m, 4H).

reactant | 4-bromobenzyl bromide | 4.0 mmol, 1.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylamine | 6.0 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | thiomorpholine 1,1-dioxide | 8.0 mmol, 1.09 g | N1CCS(CC1)(=O)=O | C4H9NO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(4-Bromobenzyl)-thiomorpholine 1,1-dioxide | 0.90 g, 74% | BrC1=CC=C(CN2CCS(CC2)(=O)=O)C=C1 | C11H14BrNO2S
